spice
* SPICE Netlist

* Voltage Sources
V1 2 4 DC 0
Vin 8 0 DC 0

* Resistors
RG 6 2 1k
RS 4 8 1k
RD 5 0 1k

* Capacitors
CGS 6 4 1u
CGD 2 2 1u
CL 7 0 1u

* Current Source
Gm 2 4

* Control Voltage Source for Current Source
EPWR 2 4

* Connections
Vout 3 0

.END